US04544747
Synthesis of N-ethyl-2-methyl-3-chloroaniline
In 100 ml of benzene is dissolved 14 g of 2-methyl-3-chloroaniline obtained in Reference Example 1 and, after adding 12 g of triethylamine, 13 g of ethyl bromide is added to the solution to conduct the reaction under reflux of benzene for 3 hours. After the completion of the reaction, the mixture is cooled to room temperature and shaken with 200 ml of water. The benzene layer is separated, dried over anhydrous magnesium sulfate, and concentrated. Distillation of the residue results in 12 g of N-ethyl-2-methyl-chloroaniline as the fraction of 125°-126° C./10 mmHg.

reactant | 2-methyl-3-chloroaniline | 14 g | CC1=C(N)C=CC=C1Cl | C7H8ClN
reactant | triethylamine | 12 g | C(C)N(CC)CC | C6H15N
reactant | ethyl bromide | 13 g | C(C)Br | C2H5Br
reactant | water | 200 ml | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-ethyl-2-methyl-3-chloroaniline | C(C)NC1=C(C(=CC=C1)Cl)C | C9H12ClN
